US05055465
1-Ethylimidazo[1,5-a]pyrido[4,5-e]pyrazine-4(5H)-one
Prepare by reaction of 3-fluoro-4-nitropyridine-N-oxide with 2-ethylimidazole followed by hydrogenation with Pd-C and cyclization with carbonyldiimidazole to provide the title compound.

reactant | 3-fluoro-4-nitropyridine-N-oxide | FC=1C=[N+](C=CC1[N+](=O)[O-])[O-] | C5H3FN2O3
reactant | 2-ethylimidazole | C(C)C=1NC=CN1 | C5H8N2
reactant | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
catalyst | Pd-C | [Pd] | Pd
product | 1-Ethylimidazo[1,5-a]pyrido[4,5-e]pyrazine-4(5H)-one | C(C)C1=NC=C2N1C1=C(NC2=O)C=CN=C1 | C11H10N4O
